US07868003B2
1-[2-((R)-6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl]-1,3-dihydroimidazol-2-one hydrochloride
1-[2-((R)-6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl]-3-(2,2-diethoxyethyl)urea (65 mg) was dissolved in formic acid (0.4 ml) and stirred at room temperature for 2 hours. Subsequently, the mixture was admixed with water and neutralized with saturated sodium hydrogencarbonate solution. After extracting three times with ethyl acetate, the combined organic phases were dried over magnesium sulfate, filtered, concentrated and purified by means of preparative chromatography. The fractions comprising product were combined, the acetonitrile was removed on a rotary evaporator, and the aqueous residue was neutralized with saturated sodium hydrogencarbonate solution and extracted three times with ethyl acetate. After the combined ethyl acetate phases had been dried over magnesium sulfate, they were filtered and concentrated to dryness. The residue was taken up with aqueous HCl and freeze-dried.

reactant | 1-[2-((R)-6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl]-3-(2,2-diethoxyethyl)urea | 65 mg | ClC=1C=C2[C@@H](CN(CC2=C(C1)Cl)C)C1=C(C=CC=C1)NC(=O)NCC(OCC)OCC | C23H29Cl2N3O3
reactant | water | O | H2O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | formic acid | 0.4 ml | C(=O)O | CH2O2
product | 1-[2-((R)-6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl]-1,3-dihydroimidazol-2-one hydrochloride | Cl.ClC=1C=C2[C@@H](CN(CC2=C(C1)Cl)C)C1=C(C=CC=C1)N1C(NC=C1)=O | InChI=1S/C19H17Cl2N3O.ClH/c1-23-10-15(14-8-12(20)9-17(21)16(14)11-23)13-4-2-3-5-18(13)24-7-6-22-19(24)25;/h2-9,15H,10-11H2,1H3,(H,22,25);1H/t15-;/m0./s1
